US08685980B2
Following General Procedure C, 7-Cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.298 g, 0.788 mmol) and 2-methyl-piperazine-1-carboxylic acid tert-butyl ester (0.316 g, 1.58 mmol) gave 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester a yellowish oil (0.341 g, 77%) [following purification by SiO2 chromatography eluting with 2-6% MeOH/DCM].

reactant | 7-Cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.788 mmol, 0.298 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 2-methyl-piperazine-1-carboxylic acid tert-butyl ester | 1.58 mmol, 0.316 g | C(C)(C)(C)OC(=O)N1C(CNCC1)C | C10H20N2O2
product | 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)CC=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)C | C30H42N8O3
